US05684033
Preparation of 1,2-diamino-3-(1H-indol-3-yl)propane
Boron trifluoride etherate (12.3 ml, 0.1 mmole) was added to a tetrahydrofuran (24.4 ml) solution of tryptophan amide (20.3 g, 0.1 mole) at room temperature with stirring. At reflux with constant stirring, borane methylsulfide (32.25 ml, 0.34 mole) was added dropwise. The reaction was heated at reflux with stirring for five hours. A tetrahydrofuran:water mixture (26 ml, 1:1) was carefully added dropwise. A sodium hydroxide solution (160 ml, 5N) was added and the mixture heated at reflux with stirring for sixteen hours.

reactant | Boron trifluoride etherate | 0.1 mmole, 12.3 ml | B(F)(F)F.CCOCC
reactant | tryptophan amide | 0.1 mole, 20.3 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N | C11H13N3O
reactant | borane methylsulfide | 0.34 mole, 32.25 ml | CSC.B
reactant | sodium hydroxide | 5N, 160 ml | [OH-].[Na+]
solvent | water | 26 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24.4 ml | O1CCCC1 | C4H8O
product | 1,2-diamino-3-(1H-indol-3-yl)propane | NCC(CC1=CNC2=CC=CC=C12)N | C11H15N3
